US05705527
(b) (2S)-N-(2-Nitrooxyethyl)-2-acetylamino-3-hydroxypropanamide
In 5 ml of 4N-hydrogen chloride/dioxane solution was dissolved 0.42 g of (2S)-N-(2-nitrooxyethyl)-2-acetylamino-3-(tetrahydropyran-2-yl)oxypropanamide, and the resulting solution was stirred at room temperature for 1 hour. The solvent was evaporated under reduced pressure, and the residue was neutralized with aqueous sodium hydrogencarbonate. The mixture was extracted with ethyl acetate, and the solvent was evaporated under reduced pressure. The residue was purified by column chromatography through silica gel using ethyl acetate as an eluent and recrystallized from ethyl acetate to give 48 mg of the title compound as colorless crystals.

reactant | (2S)-N-(2-nitrooxyethyl)-2-acetylamino-3-(tetrahydropyran-2-yl)oxypropanamide | 0.42 g | [N+](=O)([O-])OCCNC([C@H](COC1OCCCC1)NC(C)=O)=O | C12H21N3O7
solvent | hydrogen chloride dioxane | Cl.O1CCOCC1
product | (2S)-N-(2-Nitrooxyethyl)-2-acetylamino-3-hydroxypropanamide | 48 mg | [N+](=O)([O-])OCCNC([C@H](CO)NC(C)=O)=O | C7H13N3O6
